US05514654
N-(7-oxododecanoyl)-L-alanine methyl ester
7-oxododecanoic acid (1000 mg, 4.67 mmoles) and L-alanine methyl ester hydrochloride (656 mg, 4.7 mmoles) were dissolved in N,N-dimethylformamide (5 ml). The solution was cooled to 0° C. and diphenylphosphoryl azide (1300 mg, 4.72 mmoles) and triethylamine (950 mg, 0.95 mmoles) were added thereto. The reaction mixture was stirred for 1 hour on an ice bath and for 24 hours at room temperature. The resulting suspension was diluted with ethyl acetate (30 ml) and washed successively with citric acid (0.52M; 3×5 ml), water (3×5 ml), saturated NaCl solution (3×5 ml), saturated NaHCO3 solution (3×5 ml), water (3×5 ml) and saturated NaCl solution (3×5 ml). The organic phase was dried with MgSO4 and filtered, the filtrate was evaporated and the compound was precipitated from n-hexane/diethyl ether.

reactant | 7-oxododecanoic acid | 4.67 mmoles, 1000 mg | O=C(CCCCCC(=O)O)CCCCC | C12H22O3
reactant | L-alanine methyl ester hydrochloride | 4.7 mmoles, 656 mg | Cl.COC([C@@H](N)C)=O
reactant | diphenylphosphoryl azide | 4.72 mmoles, 1300 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.95 mmoles, 950 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-(7-oxododecanoyl)-L-alanine methyl ester | COC([C@@H](NC(CCCCCC(CCCCC)=O)=O)C)=O | C16H29NO4
